US05380729
To a mixture of 45 g (0.424 mol) of 2-chloro-2-methylpropanal, 99.6 ml (1.69 mol) of ethanol, 81.6 g (0.55 mol) of triethylorthoformate in 100 ml of methylene chloride was added 800 mg (4.2 mmol) of p-toluenesulfonic acid and the mixture was stirred at room temperature. After adding 2 g of potassium carbonate to the above mixture, the reaction mixture was stirred (2 min.), and filtered. The filtrate was concentrated (80° C.) to remove methylene chloride and the residue was distilled (2×) to afford 52 g (68.2%) of 2-chloro-2-methylpropanal diethyl acetal, b.p. 55°-65° C./25 mm.

reactant | 2-chloro-2-methylpropanal | 0.424 mol, 45 g | ClC(C=O)(C)C | C4H7ClO
reactant | ethanol | 1.69 mol, 99.6 ml | C(C)O | C2H6O
reactant | triethylorthoformate | 0.55 mol, 81.6 g | C(C)OC(OCC)OCC | C7H16O3
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
catalyst | p-toluenesulfonic acid | 4.2 mmol, 800 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
catalyst | potassium carbonate | 2 g | C([O-])([O-])=O.[K+].[K+]
product | 2-chloro-2-methylpropanal diethyl acetal | 52 g, 68.2% | C(C)OC(C(C)(C)Cl)OCC | C8H17ClO2
